US08106208B2
1-(tert-Butoxycarbonyl)piperidine-4-carboxylic acid (0.40 g, 1.75 mmol) was dissolved in dry DMF (5 mL) and to the solution were added DIPEA (1.22 mL, 7.0 mmol), TBTU (0.67 g, 2.1 mmol) and azetidine (0.12 g, 2.1 mmol). The reaction mixture was stirred at RT for 12 h. The mixture was diluted with methylene chloride and then washed with an aqueous solution of HCl (2 M) and then with an aqueous solution of NaHCO3 (sat.). The phases were separated by means of a phase separator column and the solvent was removed by evaporation. There was obtained 0.50 g (100%) of tert-butyl 4-(azetidin-1-ylcarbonyl)piperidine-1-carboxylate as a crude solid. 1H NMR (500 MHz, CDCl3): 1.4-1.5 (s, 9H), 1.6-1.9 (m, 5H), 2.2-2.4 (m, 3H), 2.6-2.8 (m, 2H), 3.9-4.2 (m, 5H).

reactant | 1-(tert-Butoxycarbonyl)piperidine-4-carboxylic acid | 1.75 mmol, 0.40 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | DIPEA | 7.0 mmol, 1.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 2.1 mmol, 0.67 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | azetidine | 2.1 mmol, 0.12 g | N1CCC1 | C3H7N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(azetidin-1-ylcarbonyl)piperidine-1-carboxylate | 0.50 g, 100% | N1(CCC1)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C14H24N2O3
